US05177069
To a solution of benzyl 4-[N,N-bis(ethoxycarbonylmethyl)carbamoyl]-5-(2-naphthylsulfonyl)pentanoate (0.52 g) in ethanol (10 ml) was added 10% Pd-C (50 mg), and the mixture was hydrogenolyzed at atmospheric pressure and ambient temperature for 4 days. After the catalyst was filtered off, the filtrate was evaporated at reduced pressure. The residue was purified by flash column chromatography on silica eluting with chloroform/methanol (10:1), and recrystallized from isopropyl ether-hexane to give 0.27 g of 4-[N,N-bis(ethoxycarbonylmethyl)carbamoyl]-5-(2-naphthylsulfonyl)pentanoic acid.

reactant | benzyl 4-[N,N-bis(ethoxycarbonylmethyl)carbamoyl]-5-(2-naphthylsulfonyl)pentanoate | 0.52 g | C(C)OC(=O)CN(C(=O)C(CCC(=O)OCC1=CC=CC=C1)CS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CC(=O)OCC | C31H35NO9S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd-C | 50 mg | [Pd] | Pd
product | 4-[N,N-bis(ethoxycarbonylmethyl)carbamoyl]-5-(2-naphthylsulfonyl)pentanoic acid | 0.27 g | C(C)OC(=O)CN(C(=O)C(CCC(=O)O)CS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CC(=O)OCC | C24H29NO9S
